US07858640B2
3-(4-methanesulfonylbenzyl)pentane-2,4-dione
A solution of pentane-2,4-dione (4.4 g) in N,N-dimethylformamide (10 mL) was added dropwise over a period of 15 minutes to a stirred suspension of sodium hydride (60% in oil, 1.7 g) in N,N-dimethylformamide (50 mL) at −5° C. The mixture was warmed to room temperature over 20 minutes and a solution of 1-bromomethyl-4-methanesulfonylbenzene (10 g) in N,N-dimethylformamide (20 mL) was added dropwise over a period of 10 minutes. The resulting mixture was stirred at room temperature for 17 hours and then diluted with 1.0 M aqueous hydrochloric acid (100 mL). The resulting mixture was extracted with a mixture of diethyl ether and ethyl acetate (1:1 by volume) and the combined extracts washed with a saturated aqueous sodium chloride solution and then dried over magnesium sulfate. The solvent was removed under reduced pressure and purification of the residue by column chromatography on silica gel, eluting with a mixture of cyclohexane and ethyl acetate (2:1 to 1:2 by volume) gave title compound as a colourless gum, 3.7 g.

reactant | pentane-2,4-dione | 4.4 g | CC(CC(C)=O)=O | C5H8O2
reactant | sodium hydride | 1.7 g | [H-].[Na+]
reactant | 1-bromomethyl-4-methanesulfonylbenzene | 10 g | BrCC1=CC=C(C=C1)S(=O)(=O)C | C8H9BrO2S
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | 1.0 M, 100 mL | Cl | ClH
product | 3-(4-methanesulfonylbenzyl)pentane-2,4-dione | CS(=O)(=O)C1=CC=C(CC(C(C)=O)C(C)=O)C=C1 | C13H16O4S
